US09260422B2
4-[6-(3-Chloro-4-isopropoxy-phenyl)-pyrimidin-4-yl]-pyrrolidine-2-carboxylic acid
1M HCl in diethyl ether solution (2 ml) was added in one portion to a stirred solution of 4-[6-(3-chloro-4-isopropoxy-phenyl)-pyrimidin-4-yl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (0.02 g, 0.03 mmol) in diethyl ether (1 ml) and the mixture was stirred at room temperature overnight. After this time the reaction mixture was concentrated and the resulting residue was purified by prep HPLC to give the title compound (0.005 g, 38% yield) as a cream solid.

reactant | HCl | 1M | Cl | ClH
reactant | 4-[6-(3-chloro-4-isopropoxy-phenyl)-pyrimidin-4-yl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 0.03 mmol, 0.02 g | C(C)(C)(C)OC(=O)N1C(CC(C1)C1=NC=NC(=C1)C1=CC(=C(C=C1)OC(C)C)Cl)C(=O)O | C23H28ClN3O5
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
product | 4-[6-(3-Chloro-4-isopropoxy-phenyl)-pyrimidin-4-yl]-pyrrolidine-2-carboxylic acid | 0.005 g, 38% yield | ClC=1C=C(C=CC1OC(C)C)C1=CC(=NC=N1)C1CC(NC1)C(=O)O | C18H20ClN3O3
